US07960395B2
a) (2R)-2-{[2-Amino-5-(benzylthio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino}pentan-1-ol
5-(Benzylthio)-7-chloro[1,3]thiazolo[4,5-d]pyrimidin-2-amine (6.0 g, 19.4 mmol) was dissolved in NMP (30 mL). DIPEA (8.4 mL, 48.5 mmol) and 2-amino-(2R)-1-pentanol (3.5 g, 33.9 mmol) were added and the mixture was heated to 110° C. for 4 days. After cooling to room temperature, the mixture was poured into water (200 mL). The precipitated product was collected by filtration, washed with water and used in the next step without further purification (7.0 g, 97% yield).

reactant | 5-(Benzylthio)-7-chloro[1,3]thiazolo[4,5-d]pyrimidin-2-amine | 19.4 mmol, 6.0 g | C(C1=CC=CC=C1)SC=1N=C(C2=C(N1)N=C(S2)N)Cl | C12H9ClN4S2
reactant | DIPEA | 48.5 mmol, 8.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-(2R)-1-pentanol | 33.9 mmol, 3.5 g | N[C@@H](CO)CCC | C5H13NO
reactant | water | 200 mL | O | H2O
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
product | (2R)-2-{[2-Amino-5-(benzylthio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl]amino}pentan-1-ol | 97% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CCC)SCC2=CC=CC=C2)N1 | C17H21N5OS2
